US07511050B2
Step H: 3-Methyl-9-pentyl-7-(trifluoromethyl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
A mixture of (2E)-3-pentyl-8-(trifluoromethyl)-3,7-dihydro-1H-purine-2,6-dione-2-hydrazone (0.020 g, 0.14 mmol) and triethyl orthoacetate (2 mL, 10 mmol) was stirred at room temperature for 1 h. The reaction mixture was concentrated under vacuum and the residue was purified by preparative LCMS. The product fractions were collected and lyophilized to yield pure product as white powder. LCMS calculated for C13H15F3N6O: (M+H) 329.1; found: 329.1.

reactant | (2E)-3-pentyl-8-(trifluoromethyl)-3,7-dihydro-1H-purine-2,6-dione-2-hydrazone | 0.14 mmol, 0.020 g | C(CCCC)N1/C(/NC(C=2NC(=NC12)C(F)(F)F)=O)=N/N | C11H15F3N6O
reactant | triethyl orthoacetate | 10 mmol, 2 mL | C(C)(OCC)(OCC)OCC | C8H18O3
product | 3-Methyl-9-pentyl-7-(trifluoromethyl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | CC1=NN=C2N1C(C=1NC(=NC1N2CCCCC)C(F)(F)F)=O | C13H15F3N6O
